US06344449B1
c) 4-[4-[4-(dimethylamino)-1-hydroxybutyl]phenyl]-1-(phenylmethyl)piperazine
Prepared analogously to example A51 from N,N-dimethyl-γ-oxo-4-[4-(phenylmethyl)-1-piperazinyl]-benzenebutanoic acid amide by reduction with lithium aluminium hydride in a yield of 61% of theory. Colourless, amorphous substance of Rf=0.62 (eluant: ethyl acetate/methanol 1/1 v/v).

reactant | N,N-dimethyl-γ-oxo-4-[4-(phenylmethyl)-1-piperazinyl]-benzenebutanoic acid amide | CN(C(CCC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)=O)=O)C | C23H29N3O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 4-[4-[4-(dimethylamino)-1-hydroxybutyl]phenyl]-1-(phenylmethyl)piperazine | yield of 61% | CN(CCCC(O)C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)C | C23H33N3O
